US04200313
Following a procedure similar to that described in Example 1 but employing 2.6 g of 2-[4-(dimethylamino)benzoyl]benzoic acid and 2.1 g of 4-(dimethylamino)-N-phenylaniline there was obtained 2.2 g of 3-[4-(dimethylamino)phenyl]-3-{[4-(dimethylamino)phenyl]phenylamino}phthalide, m.p. 163°-166° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed a brown-colored image.

reactant | 2-[4-(dimethylamino)benzoyl]benzoic acid | 2.6 g | CN(C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)C | C16H15NO3
reactant | 4-(dimethylamino)-N-phenylaniline | 2.1 g | CN(C1=CC=C(NC2=CC=CC=C2)C=C1)C | C14H16N2
product | 3-[4-(dimethylamino)phenyl]-3-{[4-(dimethylamino)phenyl]phenylamino}phthalide | 2.2 g | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=C(C=C1)N(C)C)C | C30H29N3O2
